### PR TITLE
[ add ] injectivity of `suc` for relation `m ≡ n (mod o)` for `{{NonZero o}}`

### PR DESCRIPTION
**Pull request by jamesmckinna**
Taken from the discussion at https://agda.zulipchat.com/#narrow/channel/264623-stdlib/topic/suc.20injective.20under.20_.25_/with/582024092 :
* introduces definition `m ≲%[ o ] n = ∃ λ k → n ≡ m + k * o`
* characterises the relation `m % o ≡ n % o` in terms of (the symmetric closure of) `m ≲%[ o ] n`
* gives two proofs of 'Carette's Lemma' `(suc m) % o ≡ (suc n) % o → m % o ≡ n % o`
  - indirect, via the characterisation, using a new lemma about `SymClosure`
  - direct, via a slick proof due to @alexarice 

Possible TODO:
* prove that `_≲%[ o ]_` satisfies `IsPreorder _≡_`, indeed `IsPartialOrder _≡_` etc. (decidable, ...)
* relate this to #2729 and friends, esp. #2877

### CODE REVIEW

File: src/Data/Nat/DivMod.agda [hunk 1]
```diff
@@ -463,6 +465,82 @@ m%n*o≡m*o%[n*o] m n o = begin-equality
...
+m ≲%[ o ] n = ∃ λ k → n ≡ m + k * o
+m ≡%[ o ] n = SymClosure _≲%[ o ]_ m n
+
+-- simple properties wrt successor
+
+≲%[o]-suc : m ≲%[ o ] n → (suc m) ≲%[ o ] (suc n)
+≲%[o]-suc (k , eq) = k , cong suc eq
+
+≲%[o]-suc⁻¹ : (suc m) ≲%[ o ] (suc n) → m ≲%[ o ] n
+≲%[o]-suc⁻¹ (k , eq) = k , cong pred eq
```
Comment (jamesmckinna) [inline src/Data/Nat/DivMod.agda]: No need *per se* for these lemmas to be part of the `DivMod` API; could easily be moved to the subsequent `private` block... not least as they are only used *once* cf. `Fairbairn threshold`.

NOW: DONE.

File: src/Data/Nat/DivMod.agda [hunk 2]
```diff
@@ -463,6 +465,74 @@ m%n*o≡m*o%[n*o] m n o = begin-equality
...
+  -- Example application, a result sought by Jacques Carette, taken from
+  -- https://agda.zulipchat.com/#narrow/channel/264623-stdlib/topic/suc.20injective.20under.20_.25_/with/582024092
+
+  CarettesLemma : ∀ o .{{_ : NonZero o}} → Rel ℕ _
+  CarettesLemma o m n = (suc m) % o ≡ (suc n) % o → m % o ≡ n % o
+
+  carettesLemma : .{{_ : NonZero o}} → CarettesLemma o m n
+  carettesLemma eq with %o≡%o⇒≡%[o] eq
+  ... | fwd (k , eq) = ≲%[o]⇒%o≡%o (k , cong pred eq)
+  ... | bwd (k , eq) = sym (≲%[o]⇒%o≡%o (k , cong pred eq))
```
Comment (jamesmckinna) [inline src/Data/Nat/DivMod.agda]: It seems as though this should be refactorable in terms of `SymClosure.(g)fold` but I don't quite see it right now.

**Comment by jamesmckinna** [comment]
Last commit tidies up notations etc. 
Still can't *quite* make the proof `carettesLemma` delegate via a suitable combinator to `≲%[o]⇒≡[o]% ∘ ≲%[o]-suc⁻¹` but this will have to do, I guess. Suggestions welcome!

File: src/Data/Nat/DivMod.agda [hunk 3]
```diff
@@ -463,6 +466,85 @@ m%n*o≡m*o%[n*o] m n o = begin-equality
...
+
+-- Definition of an asymmetric version of that notion
+-- NB. `Relation.Binary.Construct.Closure.Symmetric`
+-- gives us the relation we're after.
+
+infix 4 _≲%[_]_ _≡%[_]_
+_≲%[_]_ _≡%[_]_ : ∀ m o n → Set _
+
+m ≲%[ o ] n = ∃ λ k → n ≡ m + k * o
+m ≡%[ o ] n = SymClosure _≲%[ o ]_ m n
```
Comment (alexarice) [inline src/Data/Nat/DivMod.agda]: I'm unsure if it would actually make anything easier, but an alternative definition here is:

```suggestion
m ≡%[ o ] n = ∃ λ k → ∃ λ k' → m + k * o ≡ n + k' * o
```

Comment (jamesmckinna) [reply src/Data/Nat/DivMod.agda]: Nice observation!

(Give relation `R`, the (relational) composition of `R` with `flip R` is automatically symmetric, moreover transitive if `flip R . R` is contained in the identity , ie `R` is functional, as in this instance... and then `R + flip R` being equivalent to `flip R . R` is a further stronger invariant... but does this help in proving @JacquesCarette 's lemma?)

**Comment by jamesmckinna** [comment]
> Last commit tidies up notations etc. Still can't _quite_ make the proof `carettesLemma` delegate via a suitable combinator to `≲%[o]⇒≡[o]% ∘ ≲%[o]-suc⁻¹` but this will have to do, I guess. Suggestions welcome!

Can now: by generalising `SymClosure.gmap`! Final commit closes this last niggle.

File: src/Data/Nat/DivMod.agda [hunk 4]
```diff
@@ -463,6 +466,86 @@ m%n*o≡m*o%[n*o] m n o = begin-equality
...
+
+infix 4 _≡[_]%_
+_≡[_]%_ : ∀ m o .{{_ : NonZero o}} n → Set _
```
Comment (gallais) [inline src/Data/Nat/DivMod.agda]: What's the mnemonic for the placement of the `%` sign in this notation vs.
the previous one. I don't think I could predict where it's supposed to go.

Should we have a theory of

```
_≡[_]_ : ∀ (m : A) (A -> B) (n : A) → Set _
m ≡[ f ] n = (_≡_ on f) m n
```

and then be this just be `_≡[ (_% o) ]_`?

File: src/Relation/Binary/Construct/Closure/Symmetric.agda [hunk 5]
```diff
@@ -38,10 +38,22 @@ symmetric _ (bwd bRa) = fwd bRa
...
 
--- A generalised variant of `map` which allows the index type to change.
+-- A generalised variant of `map` where *both* index types can change.
+hmap : ∀ (g : C → A) (f : C → B) → (R on g) ⇒ (S on f) →
+       ((SymClosure R) on g) ⇒ ((SymClosure S) on f)
+hmap _ _ g*R⇒f*S (fwd aRb) = fwd (g*R⇒f*S aRb)
+hmap _ _ g*R⇒f*S (bwd bRa) = bwd (g*R⇒f*S bRa)
+
+-- Hence SymClosure commutes with `on`
+on-commutesˡ : (g : B → A) → ((SymClosure R) on g) ⇒ SymClosure (R on g)
```
Comment (gallais) [inline src/Relation/Binary/Construct/Closure/Symmetric.agda]: Is this `on⁺` and the next one `on⁻` to respect the conventions used for
relations (cf. `All` on `List`) ?

Comment (jamesmckinna) [reply src/Relation/Binary/Construct/Closure/Symmetric.agda]: Thanks for the observation! 
I basically agree with you, but for the fact that *each* lemma contains an occurrence of `on` on *both* sides of the respective implications, so it's much less clear to me what the 'concept being introduced' and 'concept being eliminated', in order to then be able to 'derive' the appropriate name.

But in terms of *greater* (if not exact) consistency/coherence with existing practice, yes, the names seem to fit.

Will update.

File: src/Data/Nat/DivMod.agda (hunk 4 above)
Comment (jamesmckinna) [reply src/Data/Nat/DivMod.agda]: Re: naming.

No, you're absolutely correct that these names are suboptimal! Thank supernatural realms for the review process... and on a more human plane, for your intervention here.

I think I'll try instead
* `_≡%[_]_` for `m ≡%[ o ] n = m % o ≡ n % o`
* `_≅%[_]_` for `m ≅%[ o ] n = SymClosure _≲%[ o ]_ m n`

on the basis that
* `≅` seems like a plausible symbol for the symmetrisation of of a given `≲`
* both relations now get `%` *preceding* the actual modulus `o`

Is that any better?

Comment (jamesmckinna) [reply src/Data/Nat/DivMod.agda]: As for the more general 'quotient by `f`' equivalence relation, I'm more hesitant to pursue that, for two reasons:
* `_%` isn't the general `f` you seek, because of the usual... weirdness about `NonZero o` witnesses
* @Taneb 's #2855 introduces *different* notation for the quotient relation, and (eventually?) we might see a suitable reconciliation, but I didn't want to prematurely commit to any eventual resolution of those decisions...?

File: src/Data/Nat/DivMod.agda [hunk 6]
```diff
@@ -463,6 +466,86 @@ m%n*o≡m*o%[n*o] m n o = begin-equality
...
+    m % o + (m / o + k) * o     ≡⟨ cong (m % o +_) (*-distribʳ-+ o (m / o) k) ⟩
+    m % o + (m / o * o + k * o) ≡⟨ +-assoc (m % o) _ _ ⟨
+    (m % o + m / o * o) + k * o ≡⟨ cong (_+ k * o) (m≡m%n+[m/n]*n m o) ⟨
+    m + k * o                   ∎)
+    where k = n / o ∸ m / o
+
+  ≡[o]%⇒≅%[o] : _≡%[ o ]_ ⇒ _≅%[ o ]_
+  ≡[o]%⇒≅%[o] {x = m} {y = n} eq with ≤-total m n
+  ... | inj₁ m≤n = fwd (≡[o]%⇒≲%[o] eq m≤n)
+  ... | inj₂ n≤m = bwd (≡[o]%⇒≲%[o] (sym eq) n≤m)
```
Comment (jamesmckinna) [inline src/Data/Nat/DivMod.agda]: This proof could be refactored in terms of `Relation.Binary.Consequences.wlog`, but my first attempt ended up more verbose and harder to read than this version. But perhaps eventually *that* combinator will be reimplemented, and with it, a suitable refactoring of this lemma.

File: src/Data/Nat/DivMod.agda [hunk 7]
```diff
@@ -463,6 +466,86 @@ m%n*o≡m*o%[n*o] m n o = begin-equality
...
+    n % o + n / o * o           ≡⟨ cong (_+ n / o * o) eq ⟨
+    m % o + n / o * o           ≡⟨ cong ((m % o +_) ∘ (_* o)) (m+[n∸m]≡n (/-monoˡ-≤ o m≤n)) ⟨
+    m % o + (m / o + k) * o     ≡⟨ cong (m % o +_) (*-distribʳ-+ o (m / o) k) ⟩
+    m % o + (m / o * o + k * o) ≡⟨ +-assoc (m % o) _ _ ⟨
+    (m % o + m / o * o) + k * o ≡⟨ cong (_+ k * o) (m≡m%n+[m/n]*n m o) ⟨
+    m + k * o                   ∎)
+    where k = n / o ∸ m / o
+
+  ≡[o]%⇒≅%[o] : _≡%[ o ]_ ⇒ _≅%[ o ]_
+  ≡[o]%⇒≅%[o] {x = m} {y = n} eq with ≤-total m n
```
Comment (gallais) [inline src/Data/Nat/DivMod.agda]: This feels like [wlog](https://agda.github.io/agda-stdlib/v2.3/Relation.Binary.Consequences.html#7186) even more so because `_≅%[_]_` is freely symmetric and so it should be (for once!) easy to invoke!

**Review by gallais — CHANGES_REQUESTED** [review]

File: src/Data/Nat/DivMod.agda (hunk 7 above)
Comment (jamesmckinna) [reply src/Data/Nat/DivMod.agda]: Well, indeed. But see above... will see what I can do.

File: src/Data/Nat/DivMod.agda [hunk 8]
```diff
@@ -463,6 +466,86 @@ m%n*o≡m*o%[n*o] m n o = begin-equality
...
+  ... | inj₁ m≤n = fwd (≡[o]%⇒≲%[o] eq m≤n)
+  ... | inj₂ n≤m = bwd (≡[o]%⇒≲%[o] (sym eq) n≤m)
+
+
+private
+
+  -- Example application, originally proposed by Jacques Carette, taken from
+  -- https://agda.zulipchat.com/#narrow/channel/264623-stdlib/topic/suc.20injective.20under.20_.25_/with/582024092
+
+  CarettesLemma : ∀ o .{{_ : NonZero o}} → Set _
```
Comment (JacquesCarette) [inline src/Data/Nat/DivMod.agda]: I think `suc-injective` would be a "better" name.

File: src/Data/Nat/DivMod.agda [hunk 9]
```diff
@@ -463,6 +466,86 @@ m%n*o≡m*o%[n*o] m n o = begin-equality
...
+    where
+    lemma-≲% : (_≲%[ o ]_ on suc) ⇒ _≲%[ o ]_
+    lemma-≲% (k , eq) = k , cong pred eq
+
+    lemma-≅% : (_≅%[ o ]_ on suc) ⇒ _≅%[ o ]_
+    lemma-≅% = SymClosure.hmap suc id lemma-≲%
+
+  -- Alex Rice's optimised proof
+  carettesLemma′ : .{{_ : NonZero o}} → CarettesLemma o
+  carettesLemma′ {o = o@(suc d)} {x = m} {y = n} eq = begin-equality
```
Comment (JacquesCarette) [inline src/Data/Nat/DivMod.agda]: Suggested rename:
o -> so
d -> o

Then the lemma won't seem so mysterious anymore.

File: CHANGELOG.md [hunk 10]
```diff
@@ -319,6 +319,21 @@ Additions to existing modules
...
+  m ≅%[ o ] n = SymClosure _≲%[ o ]_ m n
+
+  infix 4 _≡%[_]_ : ∀ m o .{{_ : NonZero o}} n → Set _
+  m ≡%[ o ] n = m % o ≡ n % o
+
+  ≲%[o]⇒≡[o]% : .{{_ : NonZero o}} → _≲%[ o ]_ ⇒ _≡%[ o ]_
+  ≅%[o]⇒≡[o]% : .{{_ : NonZero o}} → _≅%[ o ]_ ⇒ _≡%[ o ]_
+  ≡[o]%⇒≲%[o] : .{{_ : NonZero o}} → m % o ≡ n % o → m ≤ n → m ≲%[ o ] n
+  ≡[o]%⇒≅%[o] : .{{_ : NonZero o}} → _≡%[ o ]_ ⇒ _≅%[ o ]_
+  ```
```
Comment (JacquesCarette) [inline CHANGELOG.md:337]: under the name `suc-injective`, "Carette's lemma" could then be exported too.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]

File: src/Data/Nat/DivMod.agda (hunk 7 above)
Comment (jamesmckinna) [reply src/Data/Nat/DivMod.agda]: Have done so, but it's a horrible proof, so verbose!
(Because it's not simply `{Q  = _≅%[_]_}`, rather we have to conjugate symmetry for that relation with that for `_≡%[ o ]_`...)
I would really claim it's *not* an improvement.

File: src/Data/Nat/DivMod.agda (hunk 8 above)
Comment (jamesmckinna) [reply src/Data/Nat/DivMod.agda]: totally fair (but it got your attention!)

File: CHANGELOG.md (hunk 10 above)
Comment (jamesmckinna) [reply CHANGELOG.md:337]: OK... I was maybe unsure whether we needed to export it? Well, I suppose you do use it in your example... but is that usage 'specialised'? or 'general' enough to be worth exporting?

File: src/Data/Nat/DivMod.agda (hunk 8 above)
Comment (jamesmckinna) [reply src/Data/Nat/DivMod.agda]: Refactored now to export this as `≡%-suc-injective` (`suc-injective` is already taken in `Data.Nat.Properties`).

File: src/Data/Nat/DivMod.agda (hunk 6 above)
Comment (jamesmckinna) [reply src/Data/Nat/DivMod.agda]: Notwithstanding that `wlog` can be *used*, I think the above proof is easier to *read*.

**Comment by jamesmckinna** [comment]
@JacquesCarette hope I've addressed all your feedback
@gallais feel free to insist on the `wlog` proof, but I think the direct one is better!

File: src/Data/Nat/DivMod.agda (hunk 6 above)
Comment (jamesmckinna) [reply src/Data/Nat/DivMod.agda]: And now, in terms of `Sum` elimination, so avoiding the appeal to `with`.

File: src/Data/Nat/DivMod.agda [hunk 11]
```diff
@@ -463,6 +467,81 @@ m%n*o≡m*o%[n*o] m n o = begin-equality
...
+    (m % o + m / o * o) + k * o ≡⟨ cong (_+ k * o) (m≡m%n+[m/n]*n m o) ⟨
+    m + k * o                   ∎)
+    where k = n / o ∸ m / o
+
+  ≡[o]%⇒≅%[o] : _≡%[ o ]_ ⇒ _≅%[ o ]_
+  ≡[o]%⇒≅%[o] {x = m} {y = n} eq =
+    Sum.[ fwd ∘ ≡[o]%⇒≲%[o] eq , bwd ∘ ≡[o]%⇒≲%[o] (sym eq) ]′ (≤-total m n)
+
+-- Example application, originally proposed by Jacques Carette, taken from
+-- https://agda.zulipchat.com/#narrow/channel/264623-stdlib/topic/suc.20injective.20under.20_.25_/with/582024092
```
Comment (MatthewDaggitt) [inline src/Data/Nat/DivMod.agda]: Let's remove this

**Review by MatthewDaggitt — APPROVED** [review]

**Review by JacquesCarette — APPROVED** [review]

**Review by gallais — APPROVED** [review]
